Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___:
1. Urgent pump assisted coronary artery bypass graft x3:
    Left internal mammary artery to left anterior descending
    artery, saphenous vein graft to diagonal and obtuse
    marginal arteries.
2. Endoscopic harvesting of the long saphenous vein.

 
History of Present Illness:
___ year old man w/pmh of CAD with LAD stent, CHF (EF 35-40%), 
COPD, presented to ___ ___ with 4 days of 
worsening dyspnea with ___ edema after being found in tripod 
position with RA sat of 90% by EMS.  He was initially treated 
for COPD exacerbation, but ruled in for NSTEMI. He was kept in 
ICU for bipap support and was stable for cardiac catheterization 
today which showed multivessel disease, including instent LAD 
stenosis.  He is hemodynamically stable in NSR and is being 
transferred to ___ for revascularization evaluation.  Of note, 
his last dose of plavix was ___.

 
Past Medical History:
Coronary artery disease w/LAD stent
Chronic obstructive pulmonary disease
hypertension
Congestive heart failure
Diabetes mellitus
Rectal Cancer ___ - treated w Chemo/ Rad followed by a surgical
procedure to remove residual tumor via the rectum
Post traumatic stress disorder (pt is ___ veteran)

 
Social History:
___
Family History:
No premature coronary artery disease
 
Physical Exam:
Admission PE
(OSH VS ___: temp ___, HR 87, RR 24, BP 132/56, sat 97%)
Ht: 5'9'' Wt: 210 lbs
Pulse:62  RR:20 Resp:O2 sat: 95% 1 liter NC
B/P  ___
Height:     Weight:91.1 kg

General: no distress
Skin: Warm [x] Dry [] intact [x]
HEENT: NCAT [x] PERRLA [x] EOMI [x] 
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[]
Extremities: Warm [x], well-perfused []  Edema [x] 1+ pedal
edema_____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:1+   Left:1+
Radial       Right: bandaged  Left:2+

Carotid Bruit        Right:none    Left:none

 
Pertinent Results:
___ 10:35AM BLOOD Hct-26.8*
___ 04:11AM BLOOD WBC-6.2 RBC-2.49* Hgb-7.9* Hct-23.8* 
MCV-95 MCH-31.5 MCHC-33.0 RDW-14.4 Plt ___
___ 05:27AM BLOOD ___
___ 04:11AM BLOOD Glucose-79 UreaN-15 Creat-1.1 Na-138 
K-3.8 Cl-104 HCO3-27 AnGap-11

 

___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE (Complete) 
Done ___ at 11:21:33 AM      PRELIMINARY  
Referring Physician     ___  
___ of Cardiothoracic Surg
___
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Introperative monitoring for CABG  
ICD-9 Codes: 428.0, 786.05, 410.91, 424.0 
Test Information  
Date/Time: ___ at 11:21    ___ MD: ___, MD 

Test Type: TEE (Complete)
3D imaging. Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler Test Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine: 4 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  30% to 40%  >= 55%  
Aorta - Annulus:  2.1 cm  <= 3.0 cm  
Aorta - Sinus Level:  2.6 cm  <= 3.6 cm  
Aorta - Sinotubular Ridge:  2.1 cm  <= 3.0 cm  
Aorta - Ascending:  3.0 cm  <= 3.4 cm  
 
Findings  
Multiplanar reconstructions were generated and confirmed on an 
independent workstation.  

LEFT ATRIUM: Dilated ___. No spontaneous echo contrast in the 
body of the ___. No spontaneous echo contrast or thrombus 
in the body of the ___. Good (>20 cm/s) ___ ejection 
velocity. All four pulmonary veins identified and enter the left 
atrium. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. A catheter or 
pacing wire is seen in the RA. No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Normal LV wall thickness and cavity size. 
Moderate regional LV systolic dysfunction. Moderate-severe 
global left ventricular hypokinesis. Mildly depressed LVEF. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
Normal RV systolic function. 

AORTA: Focal calcifications in aortic root. Mildly dilated 
descending aorta. Simple atheroma in descending aorta. Focal 
calcifications in descending aorta. 

AORTIC VALVE: Normal aortic valve leaflets (3). No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Physiologic (normal) PR. 

PERICARDIUM: Small pericardial effusion. 

GENERAL COMMENTS: Written informed consent was obtained from the 
___. A TEE was performed in the location listed above. I 
certify I was present in compliance with ___ regulations. The 
___ was under general anesthesia throughout the procedure. 
The TEE probe was passed with assistance from the 
anesthesioology staff using a laryngoscope. No TEE related 
complications. The ___ appears to be in sinus rhythm. 
Cardiology Fellow involved with the ___ care was notified 
by e-mail. Houseofficer caring for the ___ was notified of 
the results by e-mail.  

REGIONAL LEFT VENTRICULAR WALL MOTION:  

  
  
    
 
     N = Normal, H = Hypokinetic, A = Akinetic, D = Dyskinetic  
Conclusions  
PRE-BYPASS: The left atrium is dilated. No spontaneous echo 
contrast is seen in the body of the left atrium or left atrial 
appendage. No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium or left atrial appendage. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses and cavity size are normal. There is moderate 
regional left ventricular systolic dysfunction with mid to 
distal moderate anterior and ___ wall hypoknesis. 
There is moderate to severe global left ventricular hypokinesis 
(LVEF = 35-40%). Overall left ventricular systolic function is 
mildly depressed (LVEF= 35-40 %). Right ventricular chamber size 
and free wall motion are normal. with normal free wall 
contractility. The descending thoracic aorta is mildly dilated. 
There are simple atheroma in the descending thoracic aorta. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is a small pericardial effusion.

POST CPB:

The EF looks slightly improved from prebypass. EF 40-45%. The 
Anterior and anterio-lateral wall appear less hypokinetic but 
still at baseline. No change in MR. ___ valve and aorta are 
unchanged from baseline.   
   I certify that I was present for this procedure in compliance 
with ___ regulations.

Interpretation assigned to ___, MD, Interpreting 
physician  
   

© ___ ___. All rights reserved.

 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ via transfer 
from ___ for surgical management of his coronary 
artery disease. He was worked-up by the cardiac surgical service 
in the usual preoperative manner. He waited for Plavix washout, 
requiring Nitroglycerin drip for his stenosis preop. Bedside 
PFTs were done. He had an episode of Epistaxis on HD# 4. His 
hematocrit was=25 and he was transfused one pack red blood 
cells. His Hep drip was held at that time. 
On HD# 5 he was taken to the operating room and underwent 1. 
Urgent pump assisted coronary artery bypass graft x3: Left 
internal mammary artery to left anterior descending artery, 
saphenous vein graft to diagonal and obtuse  marginal arteries.
2. Endoscopic harvesting of the long saphenous vein with 
___.  He tolerated the procedure well and was transferred 
to the CVICU for further invasive monitoring. He awoke 
neurologically intact and weaned to extubate. His postop 
hypertension was controlled with Nicardipine drip. He weaned off 
the drip with Hydralazine and Beta-blocker. Statin/ASA and 
diuresis were initiated. All lines and tubes were discontinued 
per protocol withoout incident. On pod#1 he transferred to the 
step down unit for further recovery. Physical Therapy was 
consulted for evaluation of strength and mobility. While on the 
step down unit his rhythm went into rapid atrial fibrillation. 
Initially the rate was difficult to control requiring Amio bolus 
x 2 and drip per protocol along with IV Beta-blocker and 
Diltiazem. Ultimately he converted into normal sinus rhythm. No 
anticoagulation per ___ he went back into AF. His 
home meds were reinstated as tolerated. The remainder of his 
hospital course was essentially unremarkable. He continued 
to progress and was cleared for discharge to home with ___ on 
pod#5. All follow up appointments were advised.
 
Medications on Admission:
lisinopril 5mg po daily
metformin 1000mg po BID
pioglitazone 45mg po daily
glipizide 5mg po daily
lipitor 80mg po daily
ASA EC 325mg po daily
metoprolol succinate ER 100mg po daily
niacin 50mg po qHS
vitamin D 1000 units po daily
Vitamin B12 100mcg po daily
seroquel XR 50mg po daily

Meds at OSH:
seroquel 50mg po daily
plavix 600mg po daily
heparin IV
Azithromycin 500mg IV q24h (___)
albuterol PRN 
ASA 325mg po daily
lasix 40mg IV daily 
lisinopril 5mg po daily
methylprednisolone 125mcg IV q6h (___) to prednisone 60mg po
daily
metoprolol 25mg po q8hr
protonix 40mg IV q24h (___)
Lantus insulin +SSI

Plavix - 600mg on ___, last dose: 75mg on ___

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Amiodarone 400 mg PO BID 
x 7 days, then decrease to 200 mg BID x 7 days, then decrease to 
200 mg daily 
RX *amiodarone 200 mg 2 tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*0
3. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1
4. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
5. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1
7. GlipiZIDE XL 5 mg PO DAILY 
RX *glipizide 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
8. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
9. MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*50 
Tablet Refills:*0
11. QUEtiapine Fumarate 50 mg PO QHS 
12. Furosemide 40 mg PO DAILY 
x 10 days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0
13. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 10 mEq 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease w/LAD stent
Chronic obstructive pulmonary disease
hypertension
Congestive heart failure
Diabetes mellitus
Rectal Cancer ___ - treated w Chemo/ Rad followed by a surgical
procedure to remove residual tumor via the rectum
Post traumatic stress disorder (pt is ___ veteran)

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
___ ___ Edema 

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
5) No lifting more than 10 pounds for 10 weeks
6) Please call with any questions or concerns ___

*Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___